US09024041B2
Intermediate A31: 3-(Tetrahydro-2H-pyran-4-yl)-1-p-tolyl-1H-pyrazol-5-amine
To a mixture of acetonitrile (500 μL, 390 mg, 9.60 mmol) in THF (30 mL) at RT was added a solution of potassium 2-methylbutan-2-olate in toluene (1.7 M, 17.0 mL, 29.0 mmol) followed by the dropwise addition of methyl tetrahydro-2H-pyran-4-carboxylate (5.1 mL, 5.5 g, 38 mmol) and the reaction mixture maintained at RT for 16 hr. The resulting mixture was concentrated in vacuo to a volume of ˜20 mL, was diluted with EtOH (20 mL) and treated with p-tolylhydrazine hydrochloride (1.52 g, 9.57 mmol) and was acidified to pH 1 by the addition of conc hydrochloric acid. The resulting heterogeneous mixture was heated to 70° C. for 2 hr, then cooled to RT and concentrated in vacuo to a volume of ˜20 mL. The residue was diluted with water (30 mL), adjusted to pH 12 by the addition of 2M aq NaOH and the mixture extracted with EtOAc (2×20 mL). The combined extracts were washed with brine (30 mL) and then dried and evaporated in vacuo. The residue was triturated with isohexane to afford the title compound, Intermediate A31, as a pale brown solid (1.94 g, 78%); Rt 1.28 min (Method 2); m/z 258 (M+H)+, (ES+).

reactant | acetonitrile | 9.60 mmol, 500 μL, 390 mg | C(C)#N | C2H3N
reactant | potassium 2-methylbutan-2-olate | CC(C)(CC)[O-].[K+]
reactant | toluene | 29.0 mmol, 1.7 M, 17.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl tetrahydro-2H-pyran-4-carboxylate | 38 mmol, 5.1 mL, 5.5 g | O1CCC(CC1)C(=O)OC | C7H12O3
reactant | p-tolylhydrazine hydrochloride | 9.57 mmol, 1.52 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(Tetrahydro-2H-pyran-4-yl)-1-p-tolyl-1H-pyrazol-5-amine | O1CCC(CC1)C1=NN(C(=C1)N)C1=CC=C(C=C1)C | C15H19N3O
